US04963607
Preparation of 1,4-bis(n-octadecylthio)butane.
The procedure used was essentially the same as described in Example 1. A stirred mixture of 12.22 g. (0.1 moles) of 1,4-butane dithiol and 50.5 g. (0.2 moles) of 1-octadecene were reacted at 80° C. in the presence of 0.5 g. of 2,2'-azobis(isobutyronitrile). The reaction mixture was recrystallized twice from hexanes (2×300 g.) collected by filtration, washed with 100 g. of cold hexanes, and air dried to yield 45.5 g. of pure product. Anal. Calcd. for C40H82S2 : C, 76.6; H, 13.2; S, 10.2 Found: C, 76.2; H, 12.9: S, 10.2.

reactant | 1,4-butane dithiol | 0.1 moles | C(CCCS)S | C4H10S2
reactant | 1-octadecene | 0.2 moles | C=CCCCCCCCCCCCCCCCC | C18H36
reactant | 2,2'-azobis(isobutyronitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 1,4-bis(n-octadecylthio)butane | C(CCCCCCCCCCCCCCCCC)SCCCCSCCCCCCCCCCCCCCCCCC | C40H82S2
